US05516774
N-[(Dimethylamino)methyl]-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide
To a suspension under argon of 0.072 g of sodium hydride (60% in oil) in 10 ml of tetrahydrofuran is added 0.71 g of N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide and the mixture stirred at room temperature for 1 hour. To the mixture is added N,N-dimethylmethylene-ammonium iodide and the mixture stirred 20 hours. The mixture is diluted with diethyl ether (30 ml), filtered and the filtrate concentrated under vacuum. The residue is triturated with hexane to give 0.76 g of white solid, m.p. 126°-129° C.

reactant | sodium hydride | 0.072 g | [H-].[Na+]
reactant | N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide | 0.71 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=C(C=C1)Cl)Cl)=O | C26H19Cl2N3O2
reactant | N,N-dimethylmethylene-ammonium iodide | [I-].CC=[N+]=CC
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | N-[(Dimethylamino)methyl]-N-[4-(5H-pyrrolo[2,1-c][1,4]benzodiazepin-10(11H)-ylcarbonyl)phenyl]-2,4-dichlorobenzamide | 0.76 g | CN(C)CN(C(C1=C(C=C(C=C1)Cl)Cl)=O)C1=CC=C(C=C1)C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C29H26Cl2N4O2
